US07241887B2
8,8-Dimethoxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]oct-6-ene
1,5,6,7-Tetrachloro-8,8-dimethoxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]oct-6-ene (6.23 g, 146 mmol) and t-butanol (25.13 mL, 263 mmol) were dissolved in dioxane (75 mL) in a flame dried 3N RB equipped with a water condenser and thermometer then heated to a gentle reflux (internal temp 92° C.). Sodium (5.36 g, 233 mmol) was pre-washed sequentially with hexanes/ethanol/THF/hexanes then added portionwise to the above refluxing mixture over 45 min The reaction was heated overnight and judged complete by GCMS. The reaction solution was decanted from the unreacted sodium, then washed with methanol to fully quench residual sodium. Solvent was removed in vacuo, diluted in water (100 mL), cooled in an ice bath, then acidified with 6 N HCl (100 mL). At room temperature, the acidic aqueous layers were washed with ether (2×100 mL) then made alkaline with 1N NaOH. The product was extracted with EtOAc (3×100 mL), washed with saturated aqueous NaCl solution (1×100 mL), dried over Na2SO4, filtered and concentrated to yield the title compound (3.97 g, 94%). (TLC 5% MeOH/CH2Cl2, (NH3) Rf 0.40); 1H NMR (400 MHz, CDCl3) δ 7.16 (d, J=8.3 Hz, 2H), 6.79 (d, J=8.3 Hz, 2H), 5.97 (s, 2H), 3.76 (s, 3H), 3.56 (s, 2H), 3.20 (s, 3H), 3.13 (s, 3H), 2.59 (br s, 2H), 2.53 (d, J=10.6 Hz, 2H), 2.39 (d, J=10.6 Hz, 2H); GCMS m/z 287 (M)+.

reactant | 1,5,6,7-Tetrachloro-8,8-dimethoxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]oct-6-ene | 146 mmol, 6.23 g | ClC12CN(CC(C(=C1Cl)Cl)(C2(OC)OC)Cl)CC2=CC=C(C=C2)OC | C17H19Cl4NO3
reactant | t-butanol | 263 mmol, 25.13 mL | C(C)(C)(C)O | C4H10O
reactant | Sodium | 233 mmol, 5.36 g | [Na] | Na
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | 8,8-Dimethoxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]oct-6-ene | 3.97 g, 94% | COC1(C2CN(CC1C=C2)CC2=CC=C(C=C2)OC)OC | C17H23NO3
